US08053438B2
To a round bottomed flask was added 2-(3,6-dihydro-2H-pyran-4-yl)-3-fluoropyrazine (1.1754 g, 6.52 mmol) and palladium hydroxide on carbon (0.458 g, 0.652 mmol) in EtOAc (21.75 mL). The round bottomed flask was flushed with argon and then placed under vacuum three times. A hydrogen balloon was then attached to the reaction. After stirring overnight, the reaction was filtered through celite to provide 2-fluoro-3-(Tetrahydro-2H-pyran-4-yl)pyrazine. [M+H]=183.1.

reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-3-fluoropyrazine | 6.52 mmol, 1.1754 g | O1CCC(=CC1)C1=NC=CN=C1F | C9H9FN2O
solvent | EtOAc | 21.75 mL | CCOC(=O)C | C4H8O2
catalyst | palladium hydroxide on carbon | 0.652 mmol, 0.458 g | [OH-].[OH-].[Pd+2]
product | 2-fluoro-3-(Tetrahydro-2H-pyran-4-yl)pyrazine | FC1=NC=CN=C1C1CCOCC1 | C9H11FN2O
